US05232917
2β-Ethoxy-3α-hydroxy-5α-pregnan-20-one
2α,3α-Epoxy-5α-pregnan-20-one (180 mg) was dissolved in 20 mL of absolute ethanol and cooled to °C. and added to a cold 1.0 mL ethanol solution containing 3-drops of concentrated sulfuric acid. This reaction mixture was stirred for 30 minutes at this temperature and an additional 30 minutes at room temperature, poured into 20% sodium bicarbonate solution and washed several times with chloroform. The combined organic phase was dried over potassium carbonate and concentrated and purified by preparative TLC silica plate in hexane/ethyl acetate (1:1), to give (80 mg, 40% yield) the title compound as fine white crystals.

reactant | 2α,3α-Epoxy-5α-pregnan-20-one | 180 mg | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]1(C2)C)C | C21H32O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethanol | 20 mL | C(C)O | C2H6O
reactant | ethanol | 1.0 mL | C(C)O | C2H6O
catalyst | sulfuric acid | 3-drops | S(O)(O)(=O)=O | H2O4S
product | 2β-Ethoxy-3α-hydroxy-5α-pregnan-20-one | 80 mg, 40% yield | C(C)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(C1)C)C)O | C23H38O3
